US07138533B2
1,2,3,4-Tetrahydro-8-quinolineamine
A mixed solution of 8-nitroquinoline (25.0 g), platinum oxide (600 mg) and glacial acetic acid (300 ml) was stirred at room temperature for 4 hours under the atmosphere of hydrogen at 5 atm. The reaction mixture was filtered through Celite, and the solvent was evaporated under reduced pressure. Then, the solution was extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and purified by silica gel column chromatography to give the title compound as a reddish brown oil (15.2 g).

reactant | 8-nitroquinoline | 25.0 g | [N+](=O)([O-])C=1C=CC=C2C=CC=NC12 | C9H6N2O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 600 mg | [Pt]=O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4-Tetrahydro-8-quinolineamine | 15.2 g | N1CCCC2=CC=CC(=C12)N | C9H12N2
